US04100346
Carboethoxymethyl Isothiocyanate 2
Carbon disulfide (22.8 g., 0.3 mol.) in chloroform (40 ml.) was added over a period of one hour to a stirred suspension of glycine ethyl ester hydrochloride (41.7 g. 0.3 mol.) and triethylamine (60.7 g., 0.6 mol.) in methylene chloride (300 ml.) at -10° C. The reaction mixture was allowed to warm up to 10° C. and was stirred for 10 minutes at this temperature. The mixture was treated dropwise with ethyl chloroformate (32.6 g., 0.3 mol.) in chloroform (50 ml.) at 0°-5° C. over a period of 0.5 hour. The mixture was stirred for another 40 minutes at room temperature and triethylamine (30.4 g., 0.3 mol.) was added dropwise over a period of 15 minutes. The mixture was stirred for 1/4 hour at 0° C. and an additional 1/2 hour at room temperature and finally stored over night at 25° C. The mixture was washed with water (250 ml.), 2N hydrochloric acid (2 × 300 ml.), 5% sodium bicarbonate solution (4 × 300 ml.) and dried over anhydrous sodium sulfate. The solvent was evaporated at 40° C. (15 mm.) to yield 38.1 g. of crude isothiocyanate. Upon storage overnight, a red dye was produced. This may be eliminated by distillation of the isothiocyanate.*

reactant | Carbon disulfide | 0.3 mol, 22.8 g | C(=S)=S | CS2
reactant | glycine ethyl ester hydrochloride | 0.3 mol, 41.7 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 0.6 mol, 60.7 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.3 mol, 32.6 g | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 0.3 mol, 30.4 g | C(C)N(CC)CC | C6H15N
reactant | isothiocyanate | [N-]=C=S
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | Carboethoxymethyl Isothiocyanate | C(=O)(OCC)CN=C=S | C5H7NO2S
